US07279487B2
Step 3: Preparation of methyl 4-hydroxy-2-oxo-1,2-dihydro-1,5-naphthyridine-3-carboxylate
Sodium methoxide (0.73 g, 13.5 mmol) was added to 2 methyl 3-[(3-methoxy-3-oxopropanoyl)amino]pyridine-2-carboxylate (0.9 g, 3.4 mmol) dissolved in THF (20 mL). The reaction was stirred overnight. Water was added and the solvents removed. The residue was dissolved in water and purified by reverse phase HPLC eluting with a gradient of 5-40% acetonitrile/water (0.1% TFA) to give the product as a yellow solid.

reactant | Sodium methoxide | 13.5 mmol, 0.73 g | C[O-].[Na+]
reactant | methyl 3-[(3-methoxy-3-oxopropanoyl)amino]pyridine-2-carboxylate | 3.4 mmol, 0.9 g | COC(CC(=O)NC=1C(=NC=CC1)C(=O)OC)=O | C11H12N2O5
reactant | Water | O | H2O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | methyl 4-hydroxy-2-oxo-1,2-dihydro-1,5-naphthyridine-3-carboxylate | OC1=C(C(NC2=CC=CN=C12)=O)C(=O)OC | C10H8N2O4
